US07612114B2
tert-Butyl [1-(4-formylphenoxymethyl)cyclopentyl]carbamate
Synthesized from 4-(1-aminocyclopentylmethoxy)benzonitrile according to an analogous synthetic method to Preparation Example 19, tert-butyl [1-(4-cyanophenoxymethyl)cyclopentyl]carbamate (1.0 g) was used according to an analogous synthetic method to Preparation Example 20 to provide the title compound (688 mg).

reactant | 4-(1-aminocyclopentylmethoxy)benzonitrile | NC1(CCCC1)COC1=CC=C(C#N)C=C1 | C13H16N2O
reactant | tert-butyl [1-(4-cyanophenoxymethyl)cyclopentyl]carbamate | 1.0 g | C(#N)C1=CC=C(OCC2(CCCC2)NC(OC(C)(C)C)=O)C=C1 | C18H24N2O3
product | tert-Butyl [1-(4-formylphenoxymethyl)cyclopentyl]carbamate | 688 mg | C(=O)C1=CC=C(OCC2(CCCC2)NC(OC(C)(C)C)=O)C=C1 | C18H25NO4
